US07781591B2
Preparation of the trifluoroacetic salt of 4-[(4-methyl-1H-indol-5-yl)amino]-5-[5-(piperazin-1-ylmethyl)-1-benzofuran-2-yl]nicotinonitrile 540
A mixture of tert-butyl 4-[(2-{5-cyano-4-[(4-methyl-1H-indol-5-yl)amino]pyridin-3-yl}-1-benzofuran-5-yl)methyl]piperazine-1-carboxylate (63 mg, 0.11 mmol) in 10% trifluoroacetic acid/CH2Cl2 was stirred at room temperature for 4 h, concentrated in vacuo, and the residue was purified by preparative HPLC (column: Prodigy ODS3, 4.6×150 mm, from Phenomenex (Torrance, Calif.); mobile phase A: 0.02% trifluoroacetic acid (TFA) in water; mobile phase B: 0.02% TFA in CH3CN, 10-95% B in 25 minutes (min.); flow rate: 1.0 mL/min; column temperature: 40° C.; detection wavelength: 254 and 215 nm) to provide 46 mg (50%) of the trifluoroacetic salt of 4-[(4-methyl-1H-indol-5-yl)amino]-5-[5-(piperazin-1-ylmethyl)-1-benzofuran-2-yl]nicotinonitrile 540 as an orange solid. HPLC retention time: 5.8 min.(g); MS: 463.3 (M+H); melting point: 113-115° C.; and HRMS: 463.2234.

reactant | tert-butyl 4-[(2-{5-cyano-4-[(4-methyl-1H-indol-5-yl)amino]pyridin-3-yl}-1-benzofuran-5-yl)methyl]piperazine-1-carboxylate | 0.11 mmol, 63 mg | C(#N)C=1C(=C(C=NC1)C=1OC2=C(C1)C=C(C=C2)CN2CCN(CC2)C(=O)OC(C)(C)C)NC=2C(=C1C=CNC1=CC2)C | C33H34N6O3
solvent | trifluoroacetic acid CH2Cl2 | FC(C(=O)O)(F)F.C(Cl)Cl
product | 4-[(4-methyl-1H-indol-5-yl)amino]-5-[5-(piperazin-1-ylmethyl)-1-benzofuran-2-yl]nicotinonitrile | 46 mg, 50% | CC1=C2C=CNC2=CC=C1NC1=C(C=NC=C1C#N)C=1OC2=C(C1)C=C(C=C2)CN2CCNCC2 | C28H26N6O
